US05013723
6) 2-(N-tert-butoxycarbonyl-4-butylamino)malonic acid diethyl ester (OEt--mLys(Boc)--OEt)
Metallic sodium (0.28 g, 0.012 mol) is dissolved in absolute ethyl alcohol (EtOH) (9 ml) under nitrogen atmosphere. The mixture is heated to 60° C. and diethyl malonate (3.8 g, 0.024 mol) is then dripped therein. N-tert-butoxycarbonyl-4-chloro-butylamine (2.5 g, 0.012 mol) is then gradually added, at room temperature, to the resulting solution. The reaction mixture is stirred at room temperature for 2 hours and at the reflux temperature for 6 hours, and then poured into a mixture AcOEt/water (100 ml 1/1 v/v). The organic phase which is separated is then washed repeatedly with water and dried over MgSO4The solvent is removed under vacuum at 100° C. affording a crude oily product which is purified by reverse-phase HPLC on an RP-18 column eluting with an aqueous phase modified with CH3CN (45% by volume). The desired compound (1.31 g) is thus obtained as a pure product.

reactant | sodium | 0.012 mol, 0.28 g | [Na] | Na
reactant | diethyl malonate | 0.024 mol, 3.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | N-tert-butoxycarbonyl-4-chloro-butylamine | 0.012 mol, 2.5 g | C(C)(C)(C)OC(=O)NCCCCCl | C9H18ClNO2
reactant | AcOEt water | 100 ml | CCOC(=O)C.O
solvent | ethyl alcohol | 9 ml | C(C)O | C2H6O
product | 2-(N-tert-butoxycarbonyl-4-butylamino)malonic acid diethyl ester | 1.31 g | C(C)OC(C(C(=O)OCC)N(C(=O)OC(C)(C)C)CCCC)=O | C16H29NO6
